US04080462
A solution of 255g. 2-chloroacetanilide in 900 ml. dry tetrahydrofuran was added to a water-cooled stirred suspension of 75g. sodium hydride (50 percent w/w) in the same solvent. When the evolution of hydrogen had ceased, the mixture was stirred for 10 minutes and 140 ml. propyl bromide was added dropwise. The mixture was refluxed for two hours before 50 ml. propyl bromide was added and the heating was continued for another 16 hours. The precipitate of sodium bromide was collected and washed with dry tetrahydrofuran. Evaporation of the organic filtrate gave an oil which was heated under reflux with 750 ml. concentrated hydrochloric acid and 750 ml. industrial methylated spirits for 46 hours. Further additions of 250 ml. and 125 ml. portions of concentrated hydrochloric acid were made after 19 and 27 hours heating respectively. The organic solvents were removed under reduced pressure and the cooled acid solution was basified with concentrated sodium hydroxide solution. The organic layer was isolated by ether extraction and the dried ether solution evaporated to give an oil. Distillation gave 2-chloro-N-propylaniline as the oily product, boiling point 89°-92° C./3.0 mm. Hg.

reactant | 2-chloroacetanilide | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | propyl bromide | C(CC)Br | C3H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-N-propylaniline | ClC1=C(NCCC)C=CC=C1 | C9H12ClN
